US06498172B1
(3-{[(4-Pyrazol-1-yl-benzyl)-(thiophene-2-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
To a solution of {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester (78.9 mg, 0.200 mmol), prepared in Step A of Example 13a, triethylamine (44.6 mg, 0.221 mmol) and dichloroethane (10 mL) was added thiophene-2-sulfonyl chloride (40.3 mg, 0.221 mmol). The reaction was stirred for 24 h and additional triethylamine (0.221 mmol) and thiophene-2-sulfonyl chloride (40.3 mg, 0.221 mmol) were added. After stirring for 24 h at room temperature the reaction was heated at reflux for 24 h and was cooled to room temperature. The organic solution was washed sequentially with 5.5% HCl, water, saturation sodium bicarbonate solution, and brine. The organic solution was dried (MgSO4), filtered, and concentrated. Flash chromatography (CH3:MeOH 99.1) provided the title compound of Step A (58 mg). MS 539 (M+1).

reactant | {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | 0.200 mmol, 78.9 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1N=CC=C1)=O | C23H27N3O3
reactant | triethylamine | 0.221 mmol, 44.6 mg | C(C)N(CC)CC | C6H15N
reactant | thiophene-2-sulfonyl chloride | 0.221 mmol, 40.3 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | triethylamine | 0.221 mmol | C(C)N(CC)CC | C6H15N
reactant | thiophene-2-sulfonyl chloride | 0.221 mmol, 40.3 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | (3-{[(4-Pyrazol-1-yl-benzyl)-(thiophene-2-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | 58 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(S(=O)(=O)C=1SC=CC1)CC1=CC=C(C=C1)N1N=CC=C1)=O | C27H29N3O5S2
